US05753595
This compound was prepared in the manner of Step D, Example 6, with 8.0 grams (39 mmole) of 2,6-dichlorobenzothiazole, 45 mL of concentrated sulfuric acid, and 3.8 mL (60 mmole) of concentrated nitric acid as reagents. The material was purified by column chromatography on silica gel. Elution was accomplished with 3:1 heptane:ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure, yielding 2,6-dichloro-7 nitrobenzothiazole. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-dichlorobenzothiazole | 39 mmole, 8.0 grams | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | sulfuric acid | 45 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 60 mmole, 3.8 mL | [N+](=O)(O)[O-] | HNO3
product | 2,6-dichloro-7 nitrobenzothiazole | ClC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])Cl | C7H2Cl2N2O2S
